US07618960B2
Synthesis of methyl(R)-2-tert-butoxycarbonylamino-6-(2,6-difluoropyridin-3-yl)-6-oxohexanoate
LDA (1.5 M solution in THF, 3.2 mL) was added to a solution of 2,6-difluoropyridine (492 mg) in THF (25 mL) at −78° C., and the reaction solution was stirred at −78° C. for 2.5 hours. A solution of (R)-6-oxopiperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (CAS No. 183890-36-0, 1.0 g) in THF (5 mL) was added to the reaction solution at −78° C. The reaction solution was stirred at −78° C. for one hour and at 0° C. for 2.5 hours. A saturated ammonium chloride solution and ethyl acetate were added to the reaction solution, and the mixture was heated to room temperature. Thereafter, the organic layer was separated, and the resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane:ethyl acetate=1:1->ethyl acetate) to obtain 148 mg of the title compound. The property value of the compound is as follows.

reactant | LDA | 1.5 M, 3.2 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2,6-difluoropyridine | 492 mg | FC1=NC(=CC=C1)F | C5H3F2N
reactant | (R)-6-oxopiperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)[C@@H]1N(C(CCC1)=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl(R)-2-tert-butoxycarbonylamino-6-(2,6-difluoropyridin-3-yl)-6-oxohexanoate | 148 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CCCC(=O)C=1C(=NC(=CC1)F)F | C17H22F2N2O5
